US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-(4-trifluoromethyl-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine (example A.12) (0.27 g, 1.0 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.21 g, 1.3 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.175 g, 50%). MS (ISP) 350.4 [(M+H)+]; mp 147° C.

reactant | 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine | 1.0 mmol, 0.27 g | ClC1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
reactant | 2-chloro-pyridine-4-boronic acid | 1.3 mmol, 0.21 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-(4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
